* /home/ash98/esim-workspace/therm2binary/therm2binary.cir

.include lm_741.sub
* u2  ref2 plot_v1
* u3  ref3 plot_v1
* u1  ref1 plot_v1
x1 ? net-_r5-pad1_ net-_r6-pad1_ net-_x1-pad4_ ? out1 net-_x1-pad7_ ? lm_741
r5  net-_r5-pad1_ ref1 1k
x2 ? net-_r7-pad1_ net-_r8-pad1_ net-_x1-pad4_ ? out2 net-_x1-pad7_ ? lm_741
r7  net-_r7-pad1_ ref2 1k
x3 ? net-_r9-pad1_ net-_r10-pad1_ net-_x1-pad4_ ? out3 net-_x1-pad7_ ? lm_741
r9  net-_r9-pad1_ ref3 1k
r6  net-_r6-pad1_ v_in 1k
r8  net-_r8-pad1_ v_in 1k
r10  net-_r10-pad1_ v_in 1k
r11  net-_r11-pad1_ out1 1k
r12  net-_r12-pad1_ out2 1k
r13  net-_r13-pad1_ out3 1k
v3  net-_x1-pad7_ gnd 6
* u4  out1 plot_v1
* u5  out2 plot_v1
* u6  out3 plot_v1
v4  gnd net-_x1-pad4_ 6
* u12  v_in plot_v1
v1  ref1 gnd 7
v5  ref2 gnd 6
v6  ref3 gnd 5
* u7  ref4 plot_v1
x4 ? net-_r1-pad1_ net-_r2-pad1_ net-_x1-pad4_ ? out4 net-_x1-pad7_ ? lm_741
r1  net-_r1-pad1_ ref4 1k
r2  net-_r2-pad1_ v_in 1k
r20  net-_r20-pad1_ out4 1k
* u13  out4 plot_v1
v7  ref4 gnd 4
* u9  ref6 plot_v1
* u10  ref7 plot_v1
* u8  ref5 plot_v1
x5 ? net-_r3-pad1_ net-_r4-pad1_ net-_x1-pad4_ ? out5 net-_x1-pad7_ ? lm_741
r3  net-_r3-pad1_ ref5 1k
x6 ? net-_r14-pad1_ net-_r15-pad1_ net-_x1-pad4_ ? out6 net-_x1-pad7_ ? lm_741
r14  net-_r14-pad1_ ref6 1k
x7 ? net-_r16-pad1_ net-_r17-pad1_ net-_x1-pad4_ ? out7 net-_x1-pad7_ ? lm_741
r16  net-_r16-pad1_ ref7 1k
r4  net-_r4-pad1_ v_in 1k
r15  net-_r15-pad1_ v_in 1k
r17  net-_r17-pad1_ v_in 1k
r21  net-_r21-pad1_ out5 1k
r22  net-_r22-pad1_ out6 1k
r23  net-_r23-pad1_ out7 1k
* u14  out5 plot_v1
* u15  out6 plot_v1
* u16  out7 plot_v1
v8  ref5 gnd 3
v9  ref6 gnd 2
v10  ref7 gnd 1
r25  gnd bin1 1k
r26  gnd bin2 1k
r27  gnd bin3 1k
* u20  bin1 plot_v1
* u21  bin2 plot_v1
* u22  bin3 plot_v1
* u23  net-_u11-pad8_ net-_u11-pad9_ net-_u11-pad10_ bin1 bin2 bin3 dac_bridge_3
* u17  net-_r11-pad1_ net-_r12-pad1_ net-_r13-pad1_ net-_r20-pad1_ net-_r21-pad1_ net-_r22-pad1_ net-_r23-pad1_ net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ net-_u11-pad4_ net-_u11-pad5_ net-_u11-pad6_ net-_u11-pad7_ adc_bridge_7
v2 v_in gnd  dc 4
* u11  net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ net-_u11-pad4_ net-_u11-pad5_ net-_u11-pad6_ net-_u11-pad7_ net-_u11-pad8_ net-_u11-pad9_ net-_u11-pad10_ therm2bin4bit
a1 [net-_u11-pad8_ net-_u11-pad9_ net-_u11-pad10_ ] [bin1 bin2 bin3 ] u23
a2 [net-_r11-pad1_ net-_r12-pad1_ net-_r13-pad1_ net-_r20-pad1_ net-_r21-pad1_ net-_r22-pad1_ net-_r23-pad1_ ] [net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ net-_u11-pad4_ net-_u11-pad5_ net-_u11-pad6_ net-_u11-pad7_ ] u17
a3 [net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ net-_u11-pad4_ net-_u11-pad5_ net-_u11-pad6_ net-_u11-pad7_ ] [net-_u11-pad8_ net-_u11-pad9_ net-_u11-pad10_ ] u11
* Schematic Name: dac_bridge_3, NgSpice Name: dac_bridge
.model u23 dac_bridge(out_undef=0.5 out_low=0.0 out_high=5.0 t_rise=1.0e-9 t_fall=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name: adc_bridge_7, NgSpice Name: adc_bridge
.model u17 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name: therm2bin4bit, NgSpice Name: therm2bin4bit
.model u11 therm2bin4bit(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 instance_id=1 ) 
.dc v2 0e-00 8e-00 1e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(ref2)
plot v(ref3)
plot v(ref1)
plot v(out1)
plot v(out2)
plot v(out3)
plot v(v_in)
plot v(ref4)
plot v(out4)
plot v(ref6)
plot v(ref7)
plot v(ref5)
plot v(out5)
plot v(out6)
plot v(out7)
plot v(bin1)
plot v(bin2)
plot v(bin3)
plot v(bin1) v(v_in) v(out1) v(out2) v(out3) v(out4) v(out5) v(out6) v(out7)
plot v(bin2) v(v_in) v(out1) v(out2) v(out3) v(out4) v(out5) v(out6) v(out7)
plot v(bin3) v(v_in) v(out1) v(out2) v(out3) v(out4) v(out5) v(out6) v(out7)
.endc
.end
