* Subcircuit LM_386N
.subckt LM_386N net-_q5-pad3_ net-_q1-pad2_ net-_q6-pad2_ /gnd /out /vcc net-_r2-pad2_ net-_r4-pad1_ 
* /home/ash98/downloads/lm_386n/lm_386n.cir
.include PNP.lib
.include D.lib
.include NPN.lib
q3 net-_q2-pad1_ net-_q2-pad1_ /gnd Q2N2222
q2 net-_q2-pad1_ net-_q1-pad3_ net-_q2-pad3_ Q2N2907A
r2  /vcc net-_r2-pad2_ 15k
r3  net-_r2-pad2_ net-_q2-pad3_ 15k
r4  net-_r4-pad1_ net-_q2-pad3_ 150
r5  net-_q5-pad3_ net-_r4-pad1_ 1.35k
q5 net-_q4-pad1_ net-_q5-pad2_ net-_q5-pad3_ Q2N2907A
r7  /out net-_q5-pad3_ 15k
q1 /gnd net-_q1-pad2_ net-_q1-pad3_ Q2N2907A
r1  net-_q1-pad2_ /gnd 50k
q4 net-_q4-pad1_ net-_q2-pad1_ /gnd Q2N2222
q6 /gnd net-_q6-pad2_ net-_q5-pad2_ Q2N2907A
r6  net-_q6-pad2_ /gnd 50k
q7 net-_d2-pad2_ net-_q4-pad1_ /gnd Q2N2222
d1 /vcc net-_d1-pad2_ 1N4148
d2 net-_d1-pad2_ net-_d2-pad2_ 1N4148
q9 /vcc /vcc /out Q2N2222
q10 /out net-_q10-pad2_ /gnd Q2N2222
q8 net-_q10-pad2_ net-_d2-pad2_ /out Q2N2907A
* Control Statements

.ends LM_386N