* /home/ash98/esim-workspace/lm386-test/lm386-test.cir

.include LM_386N.sub
c1  net-_c1-pad1_ net-_c1-pad2_ 0.01u
r2  net-_c1-pad2_ gnd 10
r3  iout gnd 8
v2  vin gnd sine(0 0.01 1000 0 0)
v1 net-_x1-pad6_ gnd  dc 20
* u4  iout vout plot_i2
* u3  vout plot_v1
r1  net-_r1-pad1_ vin 1k
* u2  vin plot_v1
x1 net-_c3-pad2_ gnd net-_r1-pad1_ gnd net-_c1-pad1_ net-_x1-pad6_ ? net-_c3-pad1_ LM_386N
c2  vout net-_c1-pad1_ 100u
c3  net-_c3-pad1_ net-_c3-pad2_ 10u
v_u4 iout vout 0
.tran 1e-06 15e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot i(v_u4)
plot v(vout)
plot v(vin)
.endc
.end
